US05948785
To an alkoxide solution prepared from sodium hydride (60% in oil, 1.60 g, 40.0 mmol) and allyl alcohol (100 mL) was added methyl 4-hydroxymethylbenzoate (3.32 g, 20.0 mmol) under ice-cooling. The resulting mixture was stirred at room temperature for 6 h, adjusted with 1N hydrochloric acid to pH 3, and then concentrated under reduced pressure. To the residue was added ethyl acetate (150 mL), and the mixture was washed successively with 1N hydrochloric acid, saturated aqueous sodium hydrogencarbonate solution and saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure and the residue was separated and purified by silica gel column chromatography (hexane-ethyl acetate, 5:2) to give 3.59 g (93%) of allyl 4-hydroxymethylbenzoate as a pale-yellow oil.

reactant | sodium hydride | 40.0 mmol, 1.60 g | [H-].[Na+]
reactant | methyl 4-hydroxymethylbenzoate | 20.0 mmol, 3.32 g | OCC1=CC=C(C(=O)OC)C=C1 | C9H10O3
reactant | hydrochloric acid | 1N | Cl | ClH
reactant | allyl alcohol | 100 mL | C(C=C)O | C3H6O
product | allyl 4-hydroxymethylbenzoate | 3.59 g, 93% | OCC1=CC=C(C(=O)OCC=C)C=C1 | C11H12O3
